US04514416
To 25 ml of acetic acid, was added 2.7 g of 4-amidino-2-benzoylphenyl 4-benzyloxybenzoate methanesulfonate followed by 1 ml of anisole. To the mixture cooled in ice, was added 13.5 g of a 30% solution of hydrogen bromide in acetic acid. The mixture was stirred for 5 hours and mixed with ethyl ether. The precipitate was collected by filtration and recrystallized from a methanol-ethyl ether mixture to obtain 1.4 g of 4-amidino-2-benzoylphenyl 4-hydroxybenzoate hydrobromide.

reactant | 4-amidino-2-benzoylphenyl 4-benzyloxybenzoate methanesulfonate | 2.7 g | CS(=O)(=O)O.C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC2=C(C=C(C=C2)C(N)=N)C(C2=CC=CC=C2)=O)C=C1
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | hydrogen bromide | Br | BrH
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 4-amidino-2-benzoylphenyl 4-hydroxybenzoate hydrobromide | 1.4 g | Br.OC1=CC=C(C(=O)OC2=C(C=C(C=C2)C(N)=N)C(C2=CC=CC=C2)=O)C=C1 | InChI=1S/C21H16N2O4.BrH/c22-20(23)15-8-11-18(27-21(26)14-6-9-16(24)10-7-14)17(12-15)19(25)13-4-2-1-3-5-13;/h1-12,24H,(H3,22,23);1H
